US06093732
N-(4-Chlorobenzyl)-4-hydroxy-6-(3-hydroxypropyl)-8-methoxy-3-quinolinecarboxamide
N-(4-Chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-8-methoxy-3-quinolinecarboxamide (397 mg) from Example No. 118 is dissolved in methanol/dichloromethane (1/1, 80 mL) and palladium on carbon (5%, 80 mg) are --added. The mixture is placed under a hydrogen atmosphere (23 psi) for 1 h, filtered through celite, and concentrated. The crude product is purified by column chromatography (dichloromethane/methanol, 50/1 to 20/1) to afford 251 mg (63%) of the title compound as a white solid.

reactant | N-(4-Chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-8-methoxy-3-quinolinecarboxamide | 397 mg | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)C#CCO)OC)C=C1 | C21H17ClN2O4
solvent | diethyl ether hexane | 80 mL | C(C)OCC.CCCCCC
catalyst | palladium on carbon | 80 mg | [Pd] | Pd
product | N-(4-Chlorobenzyl)-4-hydroxy-6-(3-hydroxypropyl)-8-methoxy-3-quinolinecarboxamide | 251 mg, 63% | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)CCCO)OC)C=C1 | C21H21ClN2O4
